US04524071
A. 2-(3-Pyridinyloxy)acetic acid, ethyl ester
Sodium hydride (7.15 g) was added portion-wise to a stirred solution of 3-hydroxypyridine (19 g) in dry dimethylsulphoxide (100 ml) during 1 hr. Ethyl bromoacetate (33.4. g) was added during 1 h. and water (250 ml) slowly added. The solution was extracted with chloroform (3×150 ml) and the combined extracts washed with 2 N sodium carbonate (75 ml) and dried (Na2SO4). Evaporation of the solvent gave a liquid which was distilled (120°-130°/0.1 mm) to yield the title compound (8.7 g).

reactant | Sodium hydride | 7.15 g | [H-].[Na+]
reactant | 3-hydroxypyridine | 19 g | OC=1C=NC=CC1 | C5H5NO
reactant | Ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | water | 250 ml | O | H2O
solvent | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-(3-Pyridinyloxy)acetic acid, ethyl ester | 8.7 g | N1=CC(=CC=C1)OCC(=O)OCC | C9H11NO3
